US04287341
ii. N-Benzyl-3-acetoxy-3-(m-trifluoromethylphenyl)piperidine hydrochloride
A mixture of 37 g. of N-benzyl-3-hydroxy-3-(m-trifluoromethylphenyl)piperidine, 220 ml. of acetic anhydride and 0.3 ml. of concentrated sulfuric acid is heated to 110° C. for one hour. After cooling it is poured onto ice-water, the resulting mixture agitated for 15 minutes and made alkaline by addition of sodium hydroxide solution. The mixture is extracted with ethyl acetate, the extracts washed with brine, dried (MgSO4) and evaporated to dryness to obtain 39 g. of the free base. This is dissolved in 600 ml. of ethyl acetate, cooled in ice, and 100 ml. of ethanol saturated with hydrogen chloride is added. The solvent is removed by evaporation in vacuo and the residue triturated with 200 ml. of ethyl acetate then 200 ml. of ethyl ether is added and the mixture allowed to stand overnight. The crystalline title compounds is collected by filtration, washed with ether and dried to obtain 36 g., M.P. 206°-207° C.

reactant | N-benzyl-3-hydroxy-3-(m-trifluoromethylphenyl)piperidine | C(C1=CC=CC=C1)N1CC(CCC1)(C1=CC(=CC=C1)C(F)(F)F)O | C19H20F3NO
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-Benzyl-3-acetoxy-3-(m-trifluoromethylphenyl)piperidine hydrochloride | Cl.C(C1=CC=CC=C1)N1CC(CCC1)(C1=CC(=CC=C1)C(F)(F)F)OC(C)=O | InChI=1S/C21H22F3NO2.ClH/c1-16(26)27-20(18-9-5-10-19(13-18)21(22,23)24)11-6-12-25(15-20)14-17-7-3-2-4-8-17;/h2-5,7-10,13H,6,11-12,14-15H2,1H3;1H
